US05891882
(±)-trans-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole
Ethyl 2-methoxymethyl-cinnamate and N-methoxymethyl-N-trimethylsilylmethyl-benzylamine were treated, in an analogous manner as described in Examples 3A-C.

reactant | Ethyl 2-methoxymethyl-cinnamate | COCC1=C(C=CC(=O)OCC)C=CC=C1 | C13H16O3
reactant | N-methoxymethyl-N-trimethylsilylmethyl-benzylamine | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
product | (±)-trans-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole | C1[C@H]2[C@H](CN1)COC1=C2C=CC=C1 | C11H13NO
